US07935815B2
Synthesis of (4-fluorophenyl)-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazol-2-yl}amine
TEA (1.25 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid hydrazide dihydrochloride (771 mg) in DMF (15 mL) at room temperature, and the reaction solution was stirred at room temperature for 10 minutes. 4-Fluorophenyl isocyanate (0.26 mL) was added to the reaction solution at room temperature, and the reaction solution was stirred at room temperature for one hour. The reaction solution was added to cold water. The generated solid was separated by filtration, washed with water and diethyl ether and then dried at 60° C. for three hours. Phosphorus oxychloride (15 mL) was added to the resulting solid at room temperature, and the reaction solution was heated under reflux for three hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the residue. The generated solid was separated by filtration, washed with diethyl ether and then dried at 60° C. for one hour to obtain 820 mg of the title compound. The property value of the compound is as follows.

reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid hydrazide dihydrochloride | 771 mg | Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NN
reactant | 4-Fluorophenyl isocyanate | 0.26 mL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (4-fluorophenyl)-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazol-2-yl}amine | 820 mg | FC1=CC=C(C=C1)NC=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H18FN5O2
